US07592363B2
Preparation of 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzaldehyde
2-benzyl-3-[4-(3-[1,3]dioxolan-2-ylmethyl-phenoxy)-phenyl]-7-trifluoromethyl-2H-indazole (14 mg, 0.0264 mmol) was treated with 6.6 mg PPTS in 1.5 ml acetone under reflux for 2 hrs. The reaction mixture was extracted with NaHCO3 and CH2Cl2. The combined organic phases were dried, evaporated and the crude material was purified on a chromatotron using a gradient changing from 1:99 (EtOAc/heptane) to 3:7 (EtOAc/heptane) to afford 5 mg of analytically pure product.

reactant | 2-benzyl-3-[4-(3-[1,3]dioxolan-2-ylmethyl-phenoxy)-phenyl]-7-trifluoromethyl-2H-indazole | 0.0264 mmol, 14 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)OC1=CC(=CC=C1)CC1OCCO1)C(F)(F)F | C31H25F3N2O3
reactant | PPTS | 6.6 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | acetone | 1.5 ml | CC(=O)C | C3H6O
product | 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzaldehyde | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OC=2C=C(C=O)C=CC2)C=C1)C(F)(F)F | C28H19F3N2O2
